US06649656B1
Synthesis of 6-(4-benzyloxyphenoxy)-3-acetylpyridine
Dried DMF solution (50 ml) of sodium hydride (60% in oil, 7.24 g, 181 mmol) was cooled with ice in nitrogen atmosphere, dried DMF solution (50 ml) of hydroquinone monobenzyl ether (36.2 g, 181 mmol) was dropped into the above solution spending 10 minutes under ice cooling and the mixture was stirred for 1.5 hours under ice cooling. Dried DMF solution (110 ml) of 6-chloro-3-acetylpyridine (26.7 g, 172 mmol) was dropped into the above mixture spending 15 minutes and stirred for 2 hours under ice cooling. After completing the reaction, the reaction liquid was acidified with 6N hydrochloric acid, added with water, extracted with ethyl acetate, washed with water (400 ml×3), dried with magnesium sulfate and concentrated. The residue was recrystallized from 2-propanol (300 ml) to obtain the subject compound (43.3 g, 136 mmol). The result of 1H-NMR was consistent with the above structure.

reactant | sodium hydride | 181 mmol, 7.24 g | [H-].[Na+]
reactant | hydroquinone monobenzyl ether | 181 mmol, 36.2 g | C=1(O)C(=CC(O)=CC1)C1=CC=CC=C1COCC1=CC=CC=C1C=1C(O)=CC=C(C1)O | C26H22O5
reactant | 6-chloro-3-acetylpyridine | 172 mmol, 26.7 g | ClC1=CC=C(C=N1)C(C)=O | C7H6ClNO
reactant | hydrochloric acid | 6N | Cl | ClH
reactant | water | O | H2O
solvent | DMF | 110 ml | CN(C)C=O | C3H7NO
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 6-(4-benzyloxyphenoxy)-3-acetylpyridine | 136 mmol, 43.3 g, Yield: 75% | C(C1=CC=CC=C1)OC1=CC=C(OC2=CC=C(C=N2)C(C)=O)C=C1 | C20H17NO3
